US07138399B2
J2. 2-Benzylamino-4-(2-methoxyethoxy)-3-nitropyridine
2.32 g of 2-fluoro-4-(2-methoxyethoxy)-3-nitropyridine (starting material J3), 4.44 g of potassium carbonate and 1.11 ml of benzylamine in 25 ml of N-methylpyrrolidone are stirred at room temperature for 5 hours. The mixture is diluted with water and then extracted twice with diethylether. The combined ether phases are washed with with water and brine and are then concentrated in vacuo. The residue is chromatographed on silica gel (ethyl acetate/petroleum ether 1:2). Concentration of the pure fractions and drying in vacuo gives 2.0 g of the title compound as a yellow oil, which crystallizes on standing (m.p. 81–83° C.). The mass spectrum shows the molecular peak MH+ at 304.0 Da.

reactant | 2-fluoro-4-(2-methoxyethoxy)-3-nitropyridine | 2.32 g | FC1=NC=CC(=C1[N+](=O)[O-])OCCOC | C8H9FN2O4
reactant | potassium carbonate | 4.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylamine | 1.11 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | N-methylpyrrolidone | 25 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-Benzylamino-4-(2-methoxyethoxy)-3-nitropyridine | 2.0 g | C(C1=CC=CC=C1)NC1=NC=CC(=C1[N+](=O)[O-])OCCOC | C15H17N3O4
